* NGSPICE file created from top.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_4 abstract view
.subckt sky130_fd_sc_hd__clkbuf_4 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dfrtp_1 abstract view
.subckt sky130_fd_sc_hd__dfrtp_1 CLK D RESET_B VGND VNB VPB VPWR Q
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__inv_2 abstract view
.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_16 abstract view
.subckt sky130_fd_sc_hd__clkbuf_16 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_1 abstract view
.subckt sky130_fd_sc_hd__xnor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlymetal6s2s_1 abstract view
.subckt sky130_fd_sc_hd__dlymetal6s2s_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlygate4sd3_1 abstract view
.subckt sky130_fd_sc_hd__dlygate4sd3_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2b_1 abstract view
.subckt sky130_fd_sc_hd__or2b_1 A B_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2_1 abstract view
.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21bai_1 abstract view
.subckt sky130_fd_sc_hd__o21bai_1 A1 A2 B1_N VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2b_1 abstract view
.subckt sky130_fd_sc_hd__nand2b_1 A_N B VGND VNB VPB VPWR Y
.ends

.subckt top VGND VPWR clk flag_gt_zero reset result[0] result[1] result[2] result[3]
+ result[4] result[5] result[6]
XFILLER_3_78 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_56 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
Xoutput7 net7 VGND VGND VPWR VPWR result[4] sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_4_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput8 net8 VGND VGND VPWR VPWR result[5] sky130_fd_sc_hd__buf_2
XFILLER_6_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_6_13 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput9 net9 VGND VGND VPWR VPWR result[6] sky130_fd_sc_hd__buf_2
XFILLER_3_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_3_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_5_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_29_ net2 VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__clkbuf_1
XFILLER_9_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_8_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkload0 clknet_1_1__leaf_clk VGND VGND VPWR VPWR clkload0/X sky130_fd_sc_hd__clkbuf_4
X_28_ clknet_1_0__leaf_clk fsm.nstate\[2\] _02_ VGND VGND VPWR VPWR fsm.pstate\[2\]
+ sky130_fd_sc_hd__dfrtp_1
XFILLER_6_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_9_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_27_ clknet_1_1__leaf_clk fsm.nstate\[1\] _01_ VGND VGND VPWR VPWR fsm.pstate\[1\]
+ sky130_fd_sc_hd__dfrtp_1
XFILLER_1_40 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_26_ clknet_1_0__leaf_clk fsm.nstate\[0\] _00_ VGND VGND VPWR VPWR fsm.pstate\[0\]
+ sky130_fd_sc_hd__dfrtp_1
XFILLER_6_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_09_ fsm.pstate\[1\] VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__inv_2
XTAP_TAPCELL_ROW_8_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_9_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_25_ net1 VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__inv_2
XFILLER_1_52 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_7_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xclkbuf_0_clk clk VGND VGND VPWR VPWR clknet_0_clk sky130_fd_sc_hd__clkbuf_16
XTAP_TAPCELL_ROW_0_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_24_ net1 VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__inv_2
XTAP_TAPCELL_ROW_9_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_TAPCELL_ROW_0_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_3_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_23_ net1 VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__inv_2
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_9_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_22_ _03_ net3 VGND VGND VPWR VPWR fsm.nstate\[2\] sky130_fd_sc_hd__nor2_1
X_21_ net10 _08_ VGND VGND VPWR VPWR fsm.nstate\[1\] sky130_fd_sc_hd__nor2_1
XFILLER_7_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_67 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_1_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_20_ fsm.pstate\[0\] fsm.pstate\[1\] VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__xnor2_1
XPHY_EDGE_ROW_7_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput1 reset VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__dlymetal6s2s_1
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_3_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_69 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_7_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XTAP_TAPCELL_ROW_6_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_2_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_39 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_4_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_5_61 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkbuf_1_0__f_clk clknet_0_clk VGND VGND VPWR VPWR clknet_1_0__leaf_clk sky130_fd_sc_hd__clkbuf_16
XPHY_EDGE_ROW_6_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xhold1 fsm.pstate\[2\] VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__dlygate4sd3_1
XFILLER_5_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_53 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xhold2 fsm.pstate\[0\] VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__dlygate4sd3_1
XTAP_TAPCELL_ROW_1_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_65 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_19_ net11 net10 VGND VGND VPWR VPWR fsm.nstate\[0\] sky130_fd_sc_hd__nor2_1
XFILLER_8_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_18_ _07_ VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__clkbuf_1
XFILLER_5_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_79 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_0_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_17_ fsm.pstate\[2\] fsm.pstate\[0\] VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__or2b_1
XFILLER_5_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_5_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_1_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_47 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_TAPCELL_ROW_4_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_16_ _06_ VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__clkbuf_1
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xclkbuf_1_1__f_clk clknet_0_clk VGND VGND VPWR VPWR clknet_1_1__leaf_clk sky130_fd_sc_hd__clkbuf_16
XFILLER_2_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_59 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_15_ _03_ fsm.pstate\[2\] VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__or2_1
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_31_ net2 VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__clkbuf_1
XFILLER_8_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_14_ fsm.pstate\[0\] fsm.pstate\[1\] fsm.pstate\[2\] VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__o21bai_1
XFILLER_9_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_30_ net9 VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__clkbuf_1
XFILLER_3_60 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_5_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_13_ _05_ VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__clkbuf_1
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_7_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_12_ _03_ net3 VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__or2_1
XFILLER_6_72 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_73 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_8_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_11_ _04_ VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__buf_1
Xoutput2 net2 VGND VGND VPWR VPWR flag_gt_zero sky130_fd_sc_hd__buf_2
XFILLER_7_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_EDGE_ROW_9_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_10_ fsm.pstate\[2\] fsm.pstate\[0\] VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__nand2b_1
Xoutput3 net3 VGND VGND VPWR VPWR result[0] sky130_fd_sc_hd__buf_2
XFILLER_9_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput4 net4 VGND VGND VPWR VPWR result[1] sky130_fd_sc_hd__buf_2
XFILLER_6_64 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_0_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xoutput5 net5 VGND VGND VPWR VPWR result[2] sky130_fd_sc_hd__buf_2
XFILLER_3_66 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xoutput6 net6 VGND VGND VPWR VPWR result[3] sky130_fd_sc_hd__buf_2
XTAP_TAPCELL_ROW_2_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
.ends

